US07511035B2
(e) 6-{[(2-{4-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-oxo-1-piperazinyl}ethyl)amino]methyl}-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one
To a solution of 1-(2-aminoethyl)-4-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-piperazinone (46 mg, 0.15 mmol) in DCM-EtOH (2 mL, 1:1) were added NaHCO3 (32 mg, 0.38 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde (29 mg, 0.15 mmol). After 12 h, NaBH(OAc)3 (38 mg, 0.15 mmol) was added. After an additional 2 h the solution was partitioned between NaHCO3 (sat)-DCM. The aqueous phase was extracted several times with DCM and the combined organic fractions were dried (Na2SO4), concentrated and purified via column chromatography (silica, 0-7% MeOH in DCM (1% NH4OH)) yielding the title compound (48 mg, 67%) as a yellow solid: LCMS (ES) m/e 480 (M+H)+; 1H NMR (CD3OD, 400 MHz) δ 8.44 (d, J=5.3 Hz, 1H), 8.12 (d, J=9.0 Hz, 1H), 7.63 (d, J=7.8 Hz, 1H), 7.17 (d, J=9.0 Hz, 1H), 7.00 (d, J=7.8 Hz, 1H), 6.96 (d, J=5.2 Hz, 1H), 4.21 (s, 2H), 4.19-4.22 (m, 2H), 4.03 (s, 3H), 3.82 (s, 2H), 3.69-3.74 (m, 4H), 3.67 (s, 2H), 2.90-2.93 (m, 2H).

reactant | 1-(2-aminoethyl)-4-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-piperazinone | 0.15 mmol, 46 mg | NCCN1C(CN(CC1)C1=CC=NC2=CC=C(N=C12)OC)=O | C15H19N5O2
reactant | NaHCO3 | 0.38 mmol, 32 mg | C(=O)(O)[O-].[Na+]
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde | 0.15 mmol, 29 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | NaBH(OAc)3 | 0.15 mmol, 38 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM EtOH | 2 mL | C(Cl)Cl.CCO
product | 6-{[(2-{4-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-oxo-1-piperazinyl}ethyl)amino]methyl}-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one | 48 mg, 67% | COC=1N=C2C(=CC=NC2=CC1)N1CC(N(CC1)CCNCC=1C=CC=2SCC(NC2N1)=O)=O | C23H25N7O3S
